US06355653B1
To a suspension of 6.55 g (0.15 mol) sodiumhydride in 220 ml tetrahydrofurane and 220 ml dimethylformamide were added 50.7 g (0.15 mol) (cyanomethyl)triphenylphosphonium chloride. After sirring for 1 hour at room temperature a solution of 22.4 g (0.15 mol) 2-isopropyl-4-pyridinecarboxaldehyde in 50 ml tetrahydrofuran were added and stirring was continued for 15 hours. Then 10 ml methanol were added, the solvents were evaporated and the residue chromatographed on aluminiumoxide with dichloromethane to yield 2.96 g 3-(2-isopropyl-pyridin-4-yl)-acrylonitrile as coorless oil. MS m/e (%): 172 (M+, 100).

reactant | sodiumhydride | 0.15 mol, 6.55 g | [H-].[Na+]
reactant | (cyanomethyl)triphenylphosphonium chloride | 0.15 mol, 50.7 g | [Cl-].C(#N)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-isopropyl-4-pyridinecarboxaldehyde | 0.15 mol, 22.4 g | C(C)(C)C1=NC=CC(=C1)C=O | C9H11NO
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofurane | 220 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(2-isopropyl-pyridin-4-yl)-acrylonitrile | 2.96 g | C(C)(C)C1=NC=CC(=C1)C=CC#N | C11H12N2
